US06440995B1
4-Chloro-7-methyl-2-p-tolyl-quinoline
The title compound, m. p. 110-111 ° C., MS: m/e=267 (M+), was prepared from 4-chloro-7-methyl-quinoline and 4-bromotoluene.

reactant | 4-chloro-7-methyl-quinoline | ClC1=CC=NC2=CC(=CC=C12)C | C10H8ClN
reactant | 4-bromotoluene | BrC1=CC=C(C=C1)C | C7H7Br
product | 4-Chloro-7-methyl-2-p-tolyl-quinoline | ClC1=CC(=NC2=CC(=CC=C12)C)C1=CC=C(C=C1)C | C17H14ClN
